US05314864
A mixture of 7-fluoro-6-methoxycarbonylamino-4-propargyl-2H-1,4-benzoxazin-3(4H)-one (1.4 g) and ethyl 3-amino-4,4,4-trifluorocrotonate was dissolved in dimethylformamide (5 g), and sodium hydride (0.2 g) was added thereto. The resultant mixture was stirred for 30 minutes while cooling with ice and heated under reflux for 3 hours. After cooling, the reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was concentrated, and the residue was purified by column chromatography to give 1-[7-fluoro-4-propargyl-2H-1,4-benzoxazin-3(4H)-on-6-yl]-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidine-2,6-dione (0.2 g).

reactant | 7-fluoro-6-methoxycarbonylamino-4-propargyl-2H-1,4-benzoxazin-3(4H)-one | 1.4 g | FC1=CC2=C(N(C(CO2)=O)CC#C)C=C1NC(=O)OC | C13H11FN2O4
reactant | ethyl 3-amino-4,4,4-trifluorocrotonate | N\C(=C/C(=O)OCC)\C(F)(F)F | C6H8F3NO2
reactant | sodium hydride | 0.2 g | [H-].[Na+]
reactant | water | O | H2O
solvent | dimethylformamide | 5 g | CN(C=O)C | C3H7NO
product | 1-[7-fluoro-4-propargyl-2H-1,4-benzoxazin-3(4H)-on-6-yl]-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidine-2,6-dione | 0.2 g | FC1=CC2=C(N(C(CO2)=O)CC#C)C=C1N1C(NC(=CC1=O)C(F)(F)F)=O | C16H9F4N3O4
